US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carbamoylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carbamoylnitrobenzene (5.7 g) in methanol (80 ml) was added palladium on carbon (0.6 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 2.5 hours. The reaction mixture was filtered. The filtrate was purified by chromatography on a silica gel column using dichloromethane/methanol=19/1 as an eluant to give the desired compound (4.8 g, yield 91%) as a pale yellow amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carbamoylnitrobenzene | 5.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(N)=O | C17H23N3O6
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carbamoylaniline | 4.8 g, yield 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1)C(N)=O | C17H25N3O4
